US04189595
In 133 g of dimethylformamide (DMF), 22 g of sodium hydride (55%; oil dispersion) was dispersed and the dispersion was cooled to lower than 25° C., and a solution of 133 g of N-(2,6-dichlorophenyl)anthranilaldehyde in 266 g of DMF was added dropwise during 30 minutes to the dispersion and then 85.5 g of benzyl bromide was added dropwise during 30 minutes and the mixture was stirred at 20° C. for 1 hour and 22 g of sodium hydride (55%; oil dispersion) was added and then, 62 g of formaldehyde dimethyl mercaptal S-oxide was added dropwise during 1 hour at the reaction temperature of lower than 25° C. The precipitate was filtered and washed with methanol and water and dried under a reduced pressure to obtain 210.2 g of 1-[N-benzyl-o-(2,6-dichloroanilino)phenyl]2-methylsulfinyl-2-methylthioethylene as pale yellow crystals. Melting point 194° to 196° C. (benzene)

reactant | sodium hydride | 22 g | [H-].[Na+]
reactant | N-(2,6-dichlorophenyl)anthranilaldehyde | 133 g | ClC1=C(C(=CC=C1)Cl)NC=1C(C=O)=CC=CC1 | C13H9Cl2NO
reactant | benzyl bromide | 85.5 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydride | 22 g | [H-].[Na+]
reactant | formaldehyde dimethyl mercaptal S-oxide | 62 g | CSCS(C)=O | C3H8OS2
solvent | dimethylformamide | 133 g | CN(C=O)C | C3H7NO
solvent | DMF | 266 g | CN(C=O)C | C3H7NO
product | 1-[N-benzyl-o-(2,6-dichloroanilino)phenyl]2-methylsulfinyl-2-methylthioethylene | 210.2 g | C(C1=CC=CC=C1)N(C1=C(C=CC=C1Cl)Cl)C1=C(C=CC=C1)C=C(SC)S(=O)C | C23H21Cl2NOS2
